US05344843
A mixture of alpha-oxo-4-[[2-(5,6,7,8-tetrahydro-2-naphthalenyloxy)ethyl]oxy]benzeneacetic acid methyl ester (0.75 g) in hot methanol (10 mL) plus enough tetrahydrofuran to dissolve all solids, was treated with 1N sodium hydroxide (4 mL) and diluted with water. The organic solvent was removed under vacuum and the residue was mixed with water, acidified with excess hydrochloric acid, and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from diethyl ether-hexane provided 0.56 g of alpha-oxo-4-[[2-(5,6,7,8-tetrahydro-2-naphthalenyloxy)ethyl]oxy]benzeneacetic acid as a colorless solid, mp 144°-145° C.

reactant | alpha-oxo-4-[[2-(5,6,7,8-tetrahydro-2-naphthalenyloxy)ethyl]oxy]benzeneacetic acid methyl ester | 0.75 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=2CCCCC2C=C1)=O)=O | C21H22O5
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | alpha-oxo-4-[[2-(5,6,7,8-tetrahydro-2-naphthalenyloxy)ethyl]oxy]benzeneacetic acid | 0.56 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCOC1=CC=2CCCCC2C=C1 | C20H20O5
